US06015868
Preparation of 1,2,4,5,7-pentamethylindene
Preparation of E-1-(2,3,5,6-tetramethylphenyl)-2-methyl-2-buten-1-ol (1.50 g, 0.00734 moles) in hexane (20 mL) was added dropwise to concentrated H2SO4 (20 mL) at 0° C. The resulting red solution was then allowed to warm to room temperature and then quenched by adding the solution dropwise to a solution of Na2CO3 (300 mL of 1.89 M solution) at 0° C. The organic layer was then separated and the aqueous layer extracted with pentane (3×100 mL). The organic layers were then combined and dried over MgSO4 followed by filtration and solvent removal resulting in the isolation of the desired product (1.22 g, 89.7 percent).

reactant | E-1-(2,3,5,6-tetramethylphenyl)-2-methyl-2-buten-1-ol | 0.00734 moles, 1.50 g | CC1=C(C(=C(C=C1C)C)C)C(\C(=C\C)\C)O | C15H22O
reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 1,2,4,5,7-pentamethylindene | 1.22 g, 89.7 percent | CC1C(=CC2=C(C(=CC(=C12)C)C)C)C | C14H18
